US03965111
2,8-Dimethyl-6-o-chlorophenyl-1,2-dihydro-4H-s-triazolo [3,4-c]-thieno[2,3-e][1,4]diazepin-1-one
1 g of 6-o-chlorophenyl-8-methyl-1,2-dihydro-4H-s-triazolo[3,4-c]-thieno[2,3-e][1,4]diazepin-1-one is dissolved in 25 ml of dimethylformamide, and 0.09 g of sodium hydride (50% in mineral oil) is added, and the resulting mixture is heated at 60° C on a water bath with stirring for 30 minutes. After cooling to room temperature, a solution of 0.6 g of methyl iodide in 5 ml of ether is added dropwise, and the whole mixture is stirred at room temperature for 7 hours. Then the reaction mixture is poured into ice water, the precipitated crystals are filtered off, and the filtrate is extracted with chloroform. The extract is washed with water, dried over anhydrous magnesium sulfate, and the chloroform is removed under reduced pressure. The residue is recrystallized from a mixture of ligroin and ethanol to give the title compound as white crystals, melting at 199°-200° C.

reactant | 6-o-chlorophenyl-8-methyl-1,2-dihydro-4H-s-triazolo[3,4-c]-thieno[2,3-e][1,4]diazepin-1-one | 1 g | ClC1=C(C=CC=C1)C1=NCC2=C(N3C1=NN(C3)C)S(CC2)=O | C15H15ClN4OS
reactant | sodium hydride | 0.09 g | [H-].[Na+]
reactant | methyl iodide | 0.6 g | CI | CH3I
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ether | 5 ml | CCOCC | C4H10O
product | 2,8-Dimethyl-6-o-chlorophenyl-1,2-dihydro-4H-s-triazolo [3,4-c]-thieno[2,3-e][1,4]diazepin-1-one | CC1CC2=C(N3C(C(=NC2)C2=C(C=CC=C2)Cl)=NN(C3)C)S1=O | C16H17ClN4OS
